US05536714
4,4'-Dimethoxybenzhydrylamine
Following a procedure similar to that described in Preparation 12, but using 10.7 g of 4,4'-dimethoxybenzophenone oxime, 33.9 g of ammonium acetate, 7.46 g of sodium cyanoborohydride, and 79 ml of a 17-19% by volume aqueous solution of titanium trichloride, 8.18 g of the title compound were obtained, as an oily substance.

reactant | 4,4'-dimethoxybenzophenone oxime | 10.7 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)=NO)C=C1 | C15H15NO3
reactant | ammonium acetate | 33.9 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 7.46 g | C(#N)[BH3-].[Na+]
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 4,4'-Dimethoxybenzhydrylamine | 8.18 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)N)C=C1 | C15H17NO2
